US07241785B2
A mixture of ethyl 3-(5-mercapto-1H-1,2,4-triazol-3-yl)propionate (450 mg), 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (700 mg), potassium carbonate (370 mg) and N,N-dimethylformamide (20 ml) was stirred at room temperature for 2 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylthio]-1H-1,2,4-triazol-3-yl]propionate was obtained as crystals (600 mg, yield 56%) from a fraction eluted with ethyl acetate-hexane (3:2, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 114–115° C.

reactant | ethyl 3-(5-mercapto-1H-1,2,4-triazol-3-yl)propionate | 450 mg | SC1=NC(=NN1)CCC(=O)OCC | C7H11N3O2S
reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 700 mg | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | potassium carbonate | 370 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-[5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylthio]-1H-1,2,4-triazol-3-yl]propionate | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CSC2=NC(=NN2)CCC(=O)OCC)C=C1 | C25H26N4O4S
